US06833378B2
2-Chloro-4-(1-ethyl-propylamino)-6-methyl-nicotinic acid
The title compound was prepared by reaction of 2-chloro-4-(1-ethyl-propylamino)-6-methyl-nicotinic acid methyl ester with LiOH.H2O in a mixture of water and dioxane at room temperature. The desired product was acidified to pH 3 and extracted with ethyl acetate. The organic layer was dried and concentrated to dryness. The title compound was obtained as white crystals after titration with ethyl acetate. mp. 164-165° C.; anal. For C12H17Cl2O2 cacl. C, 56.14; H, 6.67; N, 10.91; found: C, 56.40; H, 6.53; H, 10.93.

reactant | 2-chloro-4-(1-ethyl-propylamino)-6-methyl-nicotinic acid methyl ester | COC(C1=C(N=C(C=C1NC(CC)CC)C)Cl)=O | C13H19ClN2O2
reactant | LiOH.H2O | O[Li].O
solvent | water | O | H2O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2-Chloro-4-(1-ethyl-propylamino)-6-methyl-nicotinic acid | ClC1=C(C(=O)O)C(=CC(=N1)C)NC(CC)CC | C12H17ClN2O2
